US07579417B2
c) 2-Methyl-7-phenylnaphthalene
Solution of 2-bromo-7-methylnaphthalene (10 g, 45 mmole) in ether (100 ml) was cooled to −0° C., and Ni(dppp)Cl2 and solution of PhLi (obtained from 1.3 g of Mg and 5.6 ml of PhBr in 55 ml of ether) were added subsequently. Reaction mixture was allowed to warm to room temperature, stirred for additional 4 h with heating, cooled room temperature, stirred for additional 16 h, and treated by water (100 ml). Organic layer was separated, water layer was extracted by ether (3×50 ml). Combined organic fraction was evaporated, giving practically pure solid product. The yield 9.23 g (94%).

reactant | 2-bromo-7-methylnaphthalene | 45 mmole, 10 g | BrC1=CC2=CC(=CC=C2C=C1)C | C11H9Br
reactant | PhLi | 5.6 ml, 1.3 g | [Li]C=1C=CC=CC1
reactant | water | 100 ml | O | H2O
reactant | ether | 100 ml | CCOCC | C4H10O
catalyst | Ni(dppp)Cl2 | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 2-Methyl-7-phenylnaphthalene | CC1=CC2=CC(=CC=C2C=C1)C1=CC=CC=C1 | C17H14
